US07109354B2
a) 6-[3-(4-Bromo-3-methyl-5-nitro-phenyl)-ureido]-hexanoic acid ethyl ester
6-Isocyanato-hexanoic acid ethyl ester (370 μL, 2.16 mmol) was added to a solution of 4-bromo-3-methyl-5-nitro-phenylamine (250 mg, 1.08 mmol, Example 135: step a) in CH2Cl2 (5 mL, anhydrous) at rt. The reaction mixture was stirred overnight, then diluted in EtOAc and washed with saturated NH4Cl solution, water, and brine. The organic layer was dried over magnesium sulfate. Removal of solvents in vacuo was followed by flash chromatography (50–75% EtOAc/hexanes) to afford the title compound as a brown oil (162 mg, 36%). 1H-NMR (CDCl3): δ 7.59 (d, 1H, J=2.56 Hz), 7.42–7.48 (m, 1H), 4.10–4.17 (m, 2H), 3.20–3.28 (m, 2H), 2.39 (s, 3H), 2.29–2.35 (m, 2H), 1.47-1.68 (m, 4H), 1.23–1.41 (m, 5H).

reactant | 6-Isocyanato-hexanoic acid ethyl ester | 2.16 mmol, 370 μL | C(C)OC(CCCCCN=C=O)=O | C9H15NO3
reactant | 4-bromo-3-methyl-5-nitro-phenylamine | BrC1=C(C=C(C=C1[N+](=O)[O-])N)C | C7H7BrN2O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-[3-(4-Bromo-3-methyl-5-nitro-phenyl)-ureido]-hexanoic acid ethyl ester | 162 mg, 36% | C(C)OC(CCCCCNC(=O)NC1=CC(=C(C(=C1)[N+](=O)[O-])Br)C)=O | C16H22BrN3O5
